US04039316
26 ml of methyl isocyanate were added to a mixture of 11.6 g of triethylamine and 22.3 g of m-amino-3-methoxy-crotonanilide in 250 ml of tetrahydrofuran and the mixture was stirred for 16 hours and vacuum filtered. The recovered precipitate was washed with isopropyl ether to obtain 23 g of m-(N-methyl-ureido)-3-methoxy-crotonanilide melting at 166° C. Crystallization from ethanol did not change the melting point.

reactant | methyl isocyanate | 26 ml | CN=C=O | C2H3NO
reactant | triethylamine | 11.6 g | C(C)N(CC)CC | C6H15N
reactant | m-amino-3-methoxy-crotonanilide | 22.3 g | NC=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C11H14N2O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | m-(N-methyl-ureido)-3-methoxy-crotonanilide | 23 g | CN(C(=O)N)C=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C13H17N3O3
